US06784192B2
5-Fluoro-2-methoxy-3-pyridinecarboxaldehyde
20 ml of tetrahydrofuran was cooled to −78° C., 2.41 ml of n-butyllithium (2.6 M, hexane solution) was added thereto, and the mixture was stirred. A solution of 1.50 g of 5-bromo-2-methoxy-3-pyridinecarboxaldehyde dimethyl acetal dissolved in 5 ml of tetrahydrofuran was added dropwise thereinto. After 25 minutes, a solution of 2.16 g of N-fluorobenzenesulfonimide dissolved in 20 ml of tetrahydrofuran was added dropwise thereinto over 20 minutes and the mixture was further stirred for 55 minutes. To the reaction mixture were added brine and 20 ml of 2N-hydrochloric acid, followed by stirring at room temperature. After 40 minutes, a diluted ammonia was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, to give a yellow oil. The oil was dissolved in 16 ml of acetone, 4 ml of 5N-hydrochloric acid was added thereto, and the mixture was left for 30 minutes at room temperature. An aqueous potassium carbonate was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by silica gel column chromatography (n-hexane:ethyl acetate=15:1), to give 234 mg of the title compound as a slight yellow solid.

reactant | n-butyllithium | 2.6 M, 2.41 ml | C(CCC)[Li]
reactant | 5-bromo-2-methoxy-3-pyridinecarboxaldehyde dimethyl acetal | 1.50 g | COC(C=1C(=NC=C(C1)Br)OC)OC | C9H12BrNO3
reactant | N-fluorobenzenesulfonimide | 2.16 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | N | H3N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | acetone | 16 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-Fluoro-2-methoxy-3-pyridinecarboxaldehyde | 234 mg | FC=1C=C(C(=NC1)OC)C=O | C7H6FNO2
